US06384286B1
Production of 1,1,1,5,5,5-Hexafluoroacetylacetone
To the obtained crude 1,1,1,5,5,5-hexafluoroacetylacetone dihydrate 70 ml of toluene were added, followed by stirring for 1 hr at room temperature with a magnetic mixer, then filtration and then drying, thereby obtaining 27.3 g of 1,1,1,,5,5,5-hexafluoroacetylacetone dihydrate (see Table). A 100-ml glass reaction vessel, equipped with a thermometer, a stirrer and a reflux condenser filled with glass spheres, was charged with 27.3 g of the obtained 1,1,1,5,5,5-hexafluoroacetylacetone dihydrate and 55 g of 98% sulfuric acid, while nitrogen gas was allowed to flow through the reaction vessel. Then, the mixture was gradually heated to 80° C. with stirring by a magnetic mixer. During this heating, 21.0 g of a distillate of about 70° C. was collected. This distillate was found by the same gas chromatography as that of Example 1 to be 1,1,1,5,5,5-hexafluoroacetylacetone having a purity of 99.9%.

reactant | 1,1,1,5,5,5-hexafluoroacetylacetone dihydrate | 27.3 g | C(C(C(F)(F)F)(O)O)C(C(F)(F)F)(O)O | C5H6F6O4
reactant | sulfuric acid | 55 g | S(O)(O)(=O)=O | H2O4S
product | 1,1,1,5,5,5-Hexafluoroacetylacetone | C(C(=O)C(F)(F)F)C(=O)C(F)(F)F | C5H2F6O2
